US04272449
Following the methods of Example 1, 2-(4-chlorophenyl)-3-methylbutanoic acid is reacted with oxalyl chloride and aqueous methylamine to give N-methyl-2-(4-chlorophenyl)-3-methylbutyramide, which is then combined with 3-phenoxybenzyl bromide and AgBF4, yielding 3-phenoxybenzyl N-methyl-2-(4-chlorophenyl)-3-methylbutanimidate, MS m/e 407 (M+).

reactant | 2-(4-chlorophenyl)-3-methylbutanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C(C)C | C11H13ClO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | CN | CH5N
product | N-methyl-2-(4-chlorophenyl)-3-methylbutyramide | CNC(C(C(C)C)C1=CC=C(C=C1)Cl)=O | C12H16ClNO
